US08729095B2
Under ice cooling, to a dichloromethane solution (20.0 ml) of (S)-1,3-butanediol (519 mg) were added triethylamine (1.04 ml) and tert-butylchlorodiphenylsilane (1.63 ml), followed by stirring at room temperature overnight. The reaction solution was poured into a saturated aqueous ammonium chloride solution, and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography to afford (2S)-4-{[tert-butyl(diphenyl)silyl]oxy}butan-2-ol (1.69 g).

reactant | dichloromethane | 20.0 ml | ClCCl | CH2Cl2
reactant | (S)-1,3-butanediol | 519 mg | C(C[C@H](C)O)O | C4H10O2
reactant | tert-butylchlorodiphenylsilane | 1.63 ml | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | triethylamine | 1.04 ml | C(C)N(CC)CC | C6H15N
product | (2S)-4-{[tert-butyl(diphenyl)silyl]oxy}butan-2-ol | 1.69 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@H](C)O | C20H28O2Si
